US05922716
0.39 g of 5-acetamido-8-chloro-1,4-dihydro-5H-indeno[1,2-b]pyrazine-2,3-dione suspended in 5 ml of 6N hydrochloric acid is brought to reflux for 5 hours. After cooling to a temperature in the region of 20° C., the insoluble matter is filtered off, washed with water and then with methanol and taken up in 10 ml of a mixture of hot water and methanol (50:50 by volume). After a few minutes of stirring, the insoluble matter is filtered off and dried under a partial vacuum (1 mm Hg; 0.13 kPa) to yield 0.1 g of 5-amino-8-chloro-1,4-dihydro-5H-indeno [1,2-b]pyrazine-2,3-dione hydrochloride in the form of a grey solid, the melting point of which is above 260° C. (1H NMR spectrum [250 MHz, (CD3)2SO-d6, δ in ppm): 5.15 (s, 1H: CH 9); 7.39 (dd, J=8 and 2 Hz, 1H: H 7); 7.71 (d, J=2 Hz, 1H: H 5); 7.75 (d, J=8 Hz), 1H: H 8); from 8.70 to 9.20 (spread unres. comp., 3H: NH3+Cl-); from 12.00 to 12.70 (spread unres. comp., 2H: NHCOCONH).

reactant | 5-acetamido-8-chloro-1,4-dihydro-5H-indeno[1,2-b]pyrazine-2,3-dione | 0.39 g | C(C)(=O)NC1C=CC(=C2C=C3C(NC(C(N3)=O)=O)=C12)Cl | C13H10ClN3O3
solvent | hydrochloric acid | 6N, 5 ml | Cl | ClH
product | 5-amino-8-chloro-1,4-dihydro-5H-indeno [1,2-b]pyrazine-2,3-dione hydrochloride | 0.1 g | Cl.NC1C=CC(=C2C=C3C(NC(C(N3)=O)=O)=C12)Cl | InChI=1S/C11H8ClN3O2.ClH/c12-5-1-2-6(13)8-4(5)3-7-9(8)15-11(17)10(16)14-7;/h1-3,6H,13H2,(H,14,16)(H,15,17);1H
